US04478984
The reaction of Example 1 is repeated with 0.13 m of p-methoxybenzyl phenyl sulfide and N-bromosuccinimide to give N-[α-(phenylthio)-p-methoxybenzyl]-phthalimide and, then, the N-(α-chloro-p-methoxybenzyl)phthalimide using sulfuryl chloride. The p-methyl and p-nitro congeners are prepared similarly.

reactant | p-methoxybenzyl phenyl sulfide | C1(=CC=CC=C1)SCC1=CC=C(C=C1)OC | C14H14OS
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | N-[α-(phenylthio)-p-methoxybenzyl]-phthalimide | C1(=CC=CC=C1)SC(C1=CC=C(C=C1)OC)N1C(C=2C(C1=O)=CC=CC2)=O | C22H17NO3S
